US08466186B2
(e) N-{4-Chloro-2-fluoro-5-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanamide
The title compound was prepared in analogy to the procedure in Example 94, step (c) using 4-chloro-2-fluoro-5-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzylamine (270 mg; 0.55 mmol), 1-trifluoromethyl-cyclopropanecarboxylic acid (85 mg; 0.55 mmol), HBTU (209 mg; 0.55 mmol), TEA (111 mg; 1.10 mmol) and DMF (5 mL)

reactant | 4-chloro-2-fluoro-5-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzylamine | 0.55 mmol, 270 mg | ClC1=CC(=C(CN)C=C1NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F)F | C21H21Cl2F4N5
reactant | 1-trifluoromethyl-cyclopropanecarboxylic acid | 0.55 mmol, 85 mg | FC(C1(CC1)C(=O)O)(F)F | C5H5F3O2
reactant | HBTU | 0.55 mmol, 209 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-{4-Chloro-2-fluoro-5-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanamide | ClC1=CC(=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F)F | C26H24Cl2F7N5O
